US06552049B2
3-(1-{[8-Methyl-2,3-dihydrofuro[2,3-f][1,4]benzodioxin-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole
To a solution of 0.28 g (0.75 mmole) of [(2R)-8-methyl-2,3-dihydrofuro[3,2-f][1,4]benzodioxin-2-yl]methyl 4-methylbenzenesulfonate and 0.45 g (2.3 mmole) of 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole in 10 mL of 1:1 tetrahydrofuran/dimethylformamide was added 1.5 g (1.1 mmole) of potassium carbonate and the mixture was refluxed under nitrogen for 15 hours. Upon cooling to room temperature, the reaction mixture was filtered and the filtrate concentrated in vacuum. The residue was column chromatographed on silica gel with 50% hexane/ethyl acetate to give 0.13 g of the (S)-enantiomer of the title compound as a yellow solid, m.p. 198-200° C.

reactant | [(2R)-8-methyl-2,3-dihydrofuro[3,2-f][1,4]benzodioxin-2-yl]methyl 4-methylbenzenesulfonate | 0.75 mmole, 0.28 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@@H]1OC2=C(OC1)C=CC1=C2C=C(O1)C | C19H18O6S
reactant | 3-(1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | 2.3 mmole, 0.45 g | N1CCC(=CC1)C1=CNC2=CC=CC=C12 | C13H14N2
reactant | potassium carbonate | 1.1 mmole, 1.5 g | C([O-])([O-])=O.[K+].[K+]
reactant | tetrahydrofuran dimethylformamide | 10 mL | O1CCCC1.CN(C=O)C
product | 3-(1-{[8-Methyl-2,3-dihydrofuro[2,3-f][1,4]benzodioxin-2-yl]methyl}-1,2,3,6-tetrahydro-4-pyridinyl)-1H-indole | CC1=CC2=C(C3=C(OCC(O3)CN3CCC(=CC3)C3=CNC4=CC=CC=C34)C=C2)O1 | C25H24N2O3
